US07504411B2
Palladium on charcoal was added to the solution of 3-(4-acetoxymethylphenyl)-1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine (0.71 g, 2.1 mmol) in ethyl acetate and stirred under hydrogen atmosphere. After filtration with celite and removal of the solvent under reduced pressure, methanol and 1N aqueous sodium hydroxide were added and stirred. Organic solvents were removed under reduced pressure after addition of water and extracted with ethyl acetate, washed with water and brine and dried over sodium sulfate. Removal of the solvent under reduced pressure and the residue was purified by silica gel chromatography (eluent; hexane/ethyl acetate=3/1) to give 3-(4-hydroxymethylphenyl)-1-(tert-butoxycarbonyl)piperidine (0.39 g, 62%).

reactant | 3-(4-acetoxymethylphenyl)-1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine | 2.1 mmol, 0.71 g | C(C)(=O)OCC1=CC=C(C=C1)C=1CN(CCC1)C(=O)OC(C)(C)C | C19H25NO4
catalyst | Palladium on charcoal | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-hydroxymethylphenyl)-1-(tert-butoxycarbonyl)piperidine | 0.39 g, 62% | OCC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C17H25NO3
